US04857539
A suspension of 7.5 g 5-[5(4-thiocarbamylphenoxy)pentyl]-3-methylisoxazole and 24.6 g chloroacetaldehyde (50% in water) in 150 ml absolute ethanol was refluxed for 3.5 hours. The reaction mixture was concentrated in vacuo and the residue recrystallized from ethyl acetate-hexane to give 4.5 g 3-methyl-5-{5-[4-(2-thiazolyl)phenoxy]pentyl}isoxazole, m.p. 78-80° C.

reactant | 5-[5(4-thiocarbamylphenoxy)pentyl]-3-methylisoxazole | 7.5 g | C(N)(=S)C1=CC=C(OCCCCCC2=CC(=NO2)C)C=C1 | C16H20N2O2S
reactant | chloroacetaldehyde | 24.6 g | ClCC=O | C2H3ClO
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 3-methyl-5-{5-[4-(2-thiazolyl)phenoxy]pentyl}isoxazole | 4.5 g | CC1=NOC(=C1)CCCCCOC1=CC=C(C=C1)C=1SC=CN1 | C18H20N2O2S
